US06172113B2
Methyl (Z)-7-[(1S,2R,3R,4R)-3-aminobicyclo[2.2.1]hept-2-yl]-5-heptenoate (II-1) (251 mg, 1.00 mmol) was dissolved in methylene chloride (8 ml) and triethylamine (0.238 ml, 2.00 mmol) was added thereto under a nitrogen atmosphere. To the mixture was added 2-chlorosulfonyldibenzofuran (350 mg, 1.31 mmol) under ice-cooling, and the mixture was stirred for 30 min and allowed to warm up to room temperature. The reaction mixture was purified by column chromatography on silica gel (n-hexane/ethyl acetate (1:4)) and recrystallized from n-hexane (10 ml) to yield methyl (Z)-7-[(1S, 2R, 3R, 4R)-3-(2-dibezofuryl)sulfonylaminobicyclo[2.2.1]hept-2-yl]-5-heptenoate (1a-1) (342 mg, 0.710 mmol). Yield 71%, mp 115-116° C.

reactant | Methyl (Z)-7-[(1S,2R,3R,4R)-3-aminobicyclo[2.2.1]hept-2-yl]-5-heptenoate | 1.00 mmol, 251 mg | N[C@H]1[C@@H]([C@H]2CC[C@@H]1C2)C\C=C/CCCC(=O)OC | C15H25NO2
reactant | triethylamine | 2.00 mmol, 0.238 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chlorosulfonyldibenzofuran | 1.31 mmol, 350 mg | ClS(=O)(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7ClO3S
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | methyl (Z)-7-[(1S, 2R, 3R, 4R)-3-(2-dibezofuryl)sulfonylaminobicyclo[2.2.1]hept-2-yl]-5-heptenoate | 0.710 mmol, 342 mg, Yield 71% | C1=C(C=CC=2OC3=C(C21)C=CC=C3)S(=O)(=O)N[C@H]3[C@@H]([C@H]2CC[C@@H]3C2)C\C=C/CCCC(=O)OC | C27H31NO5S
